US07629346B2
6-(4-Fluoro-phenyl)-5-(pyrimidin-2-ylmethoxy)-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
In analogy to example 55, however by starting from 5-bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide and pyrimidin-2-yl-methanol, the title compound was obtained as off-white solid. MS (ISP) (M+H+)=424.2.

reactant | 5-bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)F | C17H17BrFN3O2
reactant | pyrimidin-2-yl-methanol | N1=C(N=CC=C1)CO | C5H6N2O
product | 6-(4-Fluoro-phenyl)-5-(pyrimidin-2-ylmethoxy)-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=NC(=C(N=C1)OCC1=NC=CC=N1)C1=CC=C(C=C1)F | C22H22FN5O3
